US06051202
neutralizing a second mixture of a solution of sodium aluminate and a soluble silicic acid-containing material by adding hydrochloric acid to form an aluminum silicate gel;

reactant | sodium aluminate | O=[Al-]=O.[Na+]
reactant | silicic acid | [Si](O)(O)(O)O | H4O4Si
reactant | hydrochloric acid | Cl | ClH
product | aluminum silicate | [Si]([O-])([O-])([O-])[O-].[Al+3].[Si]([O-])([O-])([O-])[O-].[Si]([O-])([O-])([O-])[O-].[Al+3].[Al+3].[Al+3] | InChI=1S/4Al.3O4Si/c;;;;3*1-5(2,3)4/q4*+3;3*-4
